US05245056
465 g of methyl acetoacetate and then 458 g of ethyl bromide were added under nitrogen to 720 g of 30% sodium methylate solution in 1200 ml of methanol. The reaction mixture was subsequently boiled at reflux. After distillation of the methanol the residue was poured on to ice-water. It was then extracted with n-hexane and water. The organic phases were combined and dried. After evaporation of the solvent and distillation there were obtained 328 g (56.9%) of methyl 2-acetylbutyrate, b.p. 77°-79°/15 Torr.

reactant | methyl acetoacetate | 465 g | C(CC(=O)C)(=O)OC | C5H8O3
reactant | ethyl bromide | 458 g | C(C)Br | C2H5Br
reactant | sodium methylate | 720 g | C[O-].[Na+]
solvent | methanol | 1200 ml | CO | CH4O
product | methyl 2-acetylbutyrate | 328 g, 56.9% | C(C)(=O)C(C(=O)OC)CC | C7H12O3
